US07888366B2
To a cold (ice water) solution of 3-iodoacetophenone (2.59 gm; 10.5 mmol) in methanol (10 mL) is added sodium borohydride (395 mg; 10.4 mmol) is stirred for thirty minutes. Water (10 mL) is added to the solution and stirred 15 minutes. Saturated ammonium chloride (40 mL) is added and the solution is extracted with ethyl acetate. The organics are separated and dried over magnesium sulfate. The solvent is removed to give 2.26 grams of 1-(3-iodophenyl)-ethanol.

reactant | 3-iodoacetophenone | 10.5 mmol, 2.59 gm | CC(=O)C1=CC(=CC=C1)I | C8H7IO
reactant | sodium borohydride | 10.4 mmol, 395 mg | [BH4-].[Na+]
reactant | Water | 10 mL | O | H2O
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
product | 1-(3-iodophenyl)-ethanol | 2.26 grams | IC=1C=C(C=CC1)C(C)O | C8H9IO
